US07674804B2
Step 1: 4-(9H-Purin-6-ylamino)-piperidine-1-carboxylic acid tert-butyl ester
A solution of 6-chloro-9H-purine (1.19 g, 7.68 mmol, 1.0 equiv; commercially available), 4-amino-piperidine-1-carboxylic acid tert-butyl ester (2.0 g, 10.0 mmol, 1.3 equiv) and N-ethyl diisopropylamine (3.0 mL, 2.3 g, 17.7 mmol, 2.3 equiv) in acetonitrile (16 mL) was heated by microwave irradiation to 160° C. for 20 min. The reaction mixture was concentrated under reduced pressure and the crude material purified by silica column chromatography using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of heptane/ethyl acetate. Suspension of the pre-purified material in ethyl acetate and filtration provided 0.89 g (36%) of the title compound. 1H NMR (300 MHz, DMSO): δ1.31-1.43 (m, 2H), 1.40 (s, 9H), 1.87-1.90 (m, 2H), 2.74-2.88 (m, 2H), 3.92-3.96 (m, 2H), 4.32 (br s, 1H), 7.52 (br s, 1H), 8.08 (s, 1H), 8.18 (s, 1H). MS (ISP): 319.3 [M+H]+.

reactant | 6-chloro-9H-purine | ClC1=C2N=CNC2=NC=N1 | C5H3ClN4
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | 10.0 mmol, 2.0 g, 1.3 equiv | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | N-ethyl diisopropylamine | 17.7 mmol, 3.0 mL, 2.3 g, 2.3 equiv | C(C)N(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 16 mL | C(C)#N | C2H3N
product | 4-(9H-Purin-6-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 0.89 g, 36% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=C2N=CNC2=NC=N1 | C15H22N6O2
